US04594341
6-t-Butoxycarbonylamino-perhydro-1,4-thiazepin-5-one
N-t-Butoxycarbonyl-S-(2-aminoethyl)-L-cysteine (5.0 g) and N-hydroxysuccinimide (2.6 g) are dissolved in 500 ml of DMF. With cooling in an ice-bath, a solution of dicyclohexylcarbodiimide (4.7 g) in 10 ml of DMF is added dropwise over a period of 15 minutes. The reaction mixture is kept in a 4° room for 10 days. The solvent is then removed by lyophilization. The crude product is extracted into chloroform. Repeated chromatography on silica gel (20:1 chloroform-methanol) affords the pure product (3.1 g). The NMR spectrum is consistent with the assigned structure. A pure sample is obtained by recrystallization (ether-methanol) and analyzes for C10H18N2O3S.

reactant | N-t-Butoxycarbonyl-S-(2-aminoethyl)-L-cysteine | 5.0 g | C(C)(C)(C)OC(=O)N[C@@H](CSCCN)C(=O)O | C10H20N2O4S
reactant | N-hydroxysuccinimide | 2.6 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 4.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-t-Butoxycarbonylamino-perhydro-1,4-thiazepin-5-one | 3.1 g | C(C)(C)(C)OC(=O)NC1C(NCCSC1)=O | C10H18N2O3S
